US08975415B2
A mixture of tert-butyl [(4S)-6′-{[(5-chloropyridin-2-yl)carbonyl]amino}-2′,2′-dimethyldispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl]carbamate (1.02 g, 1.93 mmol), silica gel (neutral; 3.06 g) and toluene (20.4 mL) was stirred for 3 hours at 120° C. The reaction mixture was cooled down to ambient temperature and concentrated at reduced pressure. The residue was purified with column chromatography on silica gel (CHCl3-EtOH, a linear gradient of EtOH from 0 to 15%) and then with NH-silica gel (Hexane-EtOAc, a linear gradient of EtOAc from 50 to 100%). The purified product was recrystallized from EtOH/H2O (1:1), and the solid was collected by filtration and dried at reduced pressure to give a hydrate of N-[(4S)-2-amino-2′,2′-dimethyldispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-6′-yl]-5-chloropyridine-2-carboxamide (547 mg) as a crystal.

reactant | tert-butyl [(4S)-6′-{[(5-chloropyridin-2-yl)carbonyl]amino}-2′,2′-dimethyldispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl]carbamate | 1.93 mmol, 1.02 g | ClC=1C=CC(=NC1)C(=O)NC=1C=C2[C@]3(N=C(OC3)NC(OC(C)(C)C)=O)C3(COC3)C(OC2=CC1)(C)C | C26H29ClN4O6
solvent | toluene | 20.4 mL | C1(=CC=CC=C1)C | C7H8
product | N-[(4S)-2-amino-2′,2′-dimethyldispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-6′-yl]-5-chloropyridine-2-carboxamide | 547 mg | NC=1OC[C@@]2(C3=CC(=CC=C3OC(C23COC3)(C)C)NC(=O)C3=NC=C(C=C3)Cl)N1 | C21H21ClN4O4
